US03968228
C. 1-Methyl-2-acetoxymethyl-4-nitro-5-cyanoimidazole
2.78 G. (0.01 moles) of 1-methyl-2-acetoxymethyl-4-nitro-5-bromoimidazole and 0.0115 moles of cupric cyanide are combined in 20 ml. of dimethylformamide and heated on a steam bath for 12 hours. The reaction mixture is cooled and poured into 200 ml. of 3% aqueous ammonia and extracted with chloroform. The extracts are washed with water, dried and evaporated under a high vacuum. The residue is recrystallized from isopropanol affording 1.0 g. 1-methyl-2-acetoxymethyl-4-nitro-5-cyanoimidazole, m.p. 92° to 93°C.

reactant | 1-methyl-2-acetoxymethyl-4-nitro-5-bromoimidazole | 0.01 moles | CN1C(=NC(=C1Br)[N+](=O)[O-])COC(C)=O | C7H8BrN3O4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Methyl-2-acetoxymethyl-4-nitro-5-cyanoimidazole | CN1C(=NC(=C1C#N)[N+](=O)[O-])COC(C)=O | C8H8N4O4
